US04851526
N-[2-[4-(1H-imidazol-1-yl)phenoxy]ethyl]octan-3-amine
In a manner similar to Preparation 8, react 2-[4-(1H-imidazol-1-yl)phenoxy]ethanamine with 3-octanone and sodium cyanoborohydride in methanol to obtain the title compound.

reactant | 2-[4-(1H-imidazol-1-yl)phenoxy]ethanamine | N1(C=NC=C1)C1=CC=C(OCCN)C=C1 | C11H13N3O
reactant | 3-octanone | CCC(CCCCC)=O | C8H16O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | N-[2-[4-(1H-imidazol-1-yl)phenoxy]ethyl]octan-3-amine | N1(C=NC=C1)C1=CC=C(OCCNC(CC)CCCCC)C=C1 | C19H29N3O
